US09340549B2
Synthesis of (S)-5,5-dimethyl-4-phenyl-3-(4-(7-(pyrimidin-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)oxazolidin-2-one
(S)-3-(4-(7-Iodo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (70 mg, 0.137 mmol), sodium carbonate (2 M, 137 μL, 0.274 mmol), 5-pyrimidinylboronic acid (17.00 mg, 0.137 mmol) (commercially available from Sigma-Aldrich, Milwaukee, Wis.), and dichloro(1,1-bis(diphenylphosphinoferrocene))palladium(II) (11.20 mg, 0.014 mmol) (commercially available from Sigma-Aldrich, Milwaukee, Wis.) were combined in dioxane (457 μL) and stirred at 130° C. for 1 hour. LC-MS indicated that there was complete conversion to the desired product. The final reaction mixture was passed through a syringe filter, and the material thus obtained was purified by reverse-phase preparative HPLC using 0.1% TFA in ACN/H2O, gradient 15% to 90% over 20 minutes to provide (S)-5,5-dimethyl-4-phenyl-3-(4-(7-(pyrimidin-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)oxazolidin-2-one (15 mg, 0.032 mmol, 23.64% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ 9.35 (s, 2H), 9.27 (s, 1H), 8.66-8.66 (m, 1H), 8.68 (dd, J=0.88, 6.36 Hz, 1H), 8.45 (dd, J=1.17, 1.86 Hz, 1H), 7.86-7.96 (m, 2H), 7.71-7.81 (m, 2H), 7.51 (dd, J=2.15, 7.43 Hz, 1H), 7.37-7.46 (m, 2H), 7.28-7.37 (m, 3H), 5.57 (s, 1H), 1.67 (s, 3H), 0.94 (s, 3H). m/z (ESI) 463.2 (M+H)+.

reactant | (S)-3-(4-(7-Iodo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.137 mmol, 70 mg | IC1=CC=2N(C=C1)C(=NN2)C2=CC=C(C=C2)N2C(OC([C@@H]2C2=CC=CC=C2)(C)C)=O | C23H19IN4O2
reactant | sodium carbonate | 0.274 mmol, 2 M, 137 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-pyrimidinylboronic acid | 0.137 mmol, 17.00 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
solvent | dioxane | 457 μL | O1CCOCC1 | C4H8O2
product | (S)-5,5-dimethyl-4-phenyl-3-(4-(7-(pyrimidin-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)oxazolidin-2-one | CC1([C@@H](N(C(O1)=O)C1=CC=C(C=C1)C1=NN=C2N1C=CC(=C2)C=2C=NC=NC2)C2=CC=CC=C2)C | C27H22N6O2
